US07476666B2
Step 5: Dimethyl 4-benzyloxy-1-{2-[(tert-butoxycarbonyl)amino]-1-(ethoxycarbonyl)ethyl}-1H-pyrazole-3,5-dicarboxylate
To a solution of dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (4.0 g, 13.8 mmol) and ethyl 3-[(tert-butoxycarbonyl)amino]-2-(methylsulfonyloxy)propanoate (4.29 g, 13.8 mmol) in anhydrous CH3CN (200 mL) was added Cs2CO3 (4.49 g, 13.8 mmol). The mixture was heated to 50° C. overnight, cooled to room temperature, and filtered. The filtrate was concentrated in vacuo to afford the title product as a pale yellow oil. ES MS (M+H)=506.

reactant | dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 13.8 mmol, 4.0 g | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | ethyl 3-[(tert-butoxycarbonyl)amino]-2-(methylsulfonyloxy)propanoate | 13.8 mmol, 4.29 g | C(C)(C)(C)OC(=O)NCC(C(=O)OCC)OS(=O)(=O)C | C11H21NO7S
reactant | Cs2CO3 | 13.8 mmol, 4.49 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | Dimethyl 4-benzyloxy-1-{2-[(tert-butoxycarbonyl)amino]-1-(ethoxycarbonyl)ethyl}-1H-pyrazole-3,5-dicarboxylate | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)C(CNC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OC | C24H31N3O9
